US04442278
One mole of cyanuric chloride was treated with one mole of phenylmagnesium bromide as described in Step I of Example I. The product of this reaction (2.3 g, 0.01 mole) in 25 ml of tetrahydrofuran (THF) was added slowly to a refluxing solution of the Grignard reagent prepared from 1-(trimethylsilyl)-2-(4-bromophenyl)acetylene (0.03 moles) and magnesium (0.75 g). The solution was stirred overnight, filtered, and the solvent removed. To the residue which remained was added a solution of KOH (10.0 g) in water (5 ml), anhydrous ethanol (100 ml) and dioxane (100 ml). The resulting mixture was heated for 2.5 hours at 60° C., filtered, and the solvent removed. Chromatographic separation of the resulting residue yielded a yellow solid, 6-phenyl-2,4-bis(4-ethynylphenyl)-s-triazine, which melted at approximately 215° C. with rapid polymerization.

reactant | cyanuric chloride | One mole | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | phenylmagnesium bromide | one mole | C1(=CC=CC=C1)[Mg]Br
reactant | 1-(trimethylsilyl)-2-(4-bromophenyl)acetylene | 0.03 moles | C[Si](C#CC1=CC=C(C=C1)Br)(C)C | C11H13BrSi
reactant | magnesium | 0.75 g | [Mg] | Mg
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 6-phenyl-2,4-bis(4-ethynylphenyl)-s-triazine | C1(=CC=CC=C1)C1=NC(=NC(=N1)C1=CC=C(C=C1)C#C)C1=CC=C(C=C1)C#C | C25H15N3
